*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.5
* < ILD_dielectric_const = 3.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_0 1 2 3 4 REF
C_C1 1 REF 1.1140162127583pf
C_C2 1 2 13.580920679901pf
C_C3 1 3 0.019709623042pf
C_C4 1 4 0.1836777188051pf
C_C5 2 REF 1.2778748731545pf
C_C6 2 3 0.0908784428943pf
C_C7 3 REF 0.3306130561811pf
C_C8 3 4 7.3928429138155pf
C_C9 4 REF 0.3301697470398pf
L_L1 3 5 1.3097023969006nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_1 1 2 3 4 REF
C_C1 1 REF 0.8347122028869pf
C_C2 1 2 13.823066680642pf
C_C3 1 3 0.0186602607938pf
C_C4 1 4 0.1854645086723pf
C_C5 2 REF 1.002774461567pf
C_C6 2 3 0.091448670403pf
C_C7 3 REF 0.3311038595667pf
C_C8 3 4 5.5062831838815pf
C_C9 4 REF 0.329882008514pf
R_R1 1 2 945.88258629175
L_L1 3 5 1.3112500364471nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_2 1 2 3 4 REF
C_C1 1 REF 0.6429570335095pf
C_C2 1 2 14.036743430456pf
C_C3 1 3 0.0175724455479pf
C_C4 1 4 0.1874703237667pf
C_C5 2 REF 0.8148112901454pf
C_C6 2 3 0.0919463735794pf
C_C7 3 REF 0.3317067111899pf
C_C8 3 4 4.1866462630479pf
C_C9 4 REF 0.3297008841645pf
R_R1 1 2 913.77827361656
L_L1 3 5 1.3125411773404nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_3 1 2 3 4 REF
C_C1 1 REF 0.4852254123943pf
C_C2 1 2 14.2902338626pf
C_C3 1 3 0.0161795348357pf
C_C4 1 4 0.1902935191233pf
C_C5 2 REF 0.6616512017931pf
C_C6 2 3 0.0925433190494pf
C_C7 3 REF 0.3325195207311pf
C_C8 3 4 3.0486620204102pf
C_C9 4 REF 0.3295806258283pf
R_R1 1 2 895.59100371075
L_L1 3 5 1.3138504717256nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_4 1 2 3 4 REF
C_C1 1 REF 0.3689827671029pf
C_C2 1 2 14.595945199708pf
C_C3 1 3 0.0145145259256pf
C_C4 1 4 0.1940536873453pf
C_C5 2 REF 0.5509462505515pf
C_C6 2 3 0.0933037998308pf
C_C7 3 REF 0.33344454519pf
C_C8 3 4 2.134165860396pf
C_C9 4 REF 0.3295347731622pf
R_R1 1 2 897.62946064676
L_L1 3 5 1.3151620668864nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_5 1 2 3 4 REF
C_C1 1 REF 0.3020788583107pf
C_C2 1 2 14.923836641141pf
C_C3 1 3 0.0128567360749pf
C_C4 1 4 0.1982534902714pf
C_C5 2 REF 0.4899219994024pf
C_C6 2 3 0.0941902197083pf
C_C7 3 REF 0.3342366523892pf
C_C8 3 4 1.5269360523468pf
C_C9 4 REF 0.3295572414885pf
R_R1 1 2 923.68279628261
L_L1 3 5 1.3162243786329nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_6 1 2 3 4 REF
C_C1 1 REF 0.2642747502452pf
C_C2 1 2 15.286372335465pf
C_C3 1 3 0.011197783258pf
C_C4 1 4 0.2029034414336pf
C_C5 2 REF 0.458483411453pf
C_C6 2 3 0.0952481178339pf
C_C7 3 REF 0.3348588461817pf
C_C8 3 4 1.1093910145275pf
C_C9 4 REF 0.329617397844pf
R_R1 1 2 975.37242767456
L_L1 3 5 1.3170995015349nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_7 1 2 3 4 REF
C_C1 1 REF 0.2416718142034pf
C_C2 1 2 15.76791966949pf
C_C3 1 4 0.2089710253658pf
C_C4 2 REF 0.4440848363086pf
C_C5 2 3 0.0967454657471pf
C_C6 3 REF 0.3353668853744pf
C_C7 3 4 0.7746356160177pf
C_C8 4 REF 0.3297085701592pf
L_L1 3 5 1.31792758602nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_8 1 2 3 4 REF
C_C1 1 REF 0.2307287442611pf
C_C2 1 2 16.398921259617pf
C_C3 1 4 0.2167171576936pf
C_C4 2 REF 0.4435189839188pf
C_C5 2 3 0.0987993001238pf
C_C6 3 REF 0.3357057661331pf
C_C7 3 4 0.5153470433593pf
C_C8 4 REF 0.3298143675101pf
L_L1 3 5 1.3187120583144nh
R_RL1 5 4 -1.006080237e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_9 1 2 3 4 REF
C_C1 1 REF 0.2278299640858pf
C_C2 1 2 17.239049359188pf
C_C3 1 4 0.226725943738pf
C_C4 2 REF 0.453891336558pf
C_C5 2 3 0.101621553527pf
C_C6 3 REF 0.3358444741307pf
C_C7 3 4 0.322724782027pf
C_C8 4 REF 0.3299172908114pf
L_L1 3 5 1.3194118694403nh
R_RL1 5 4 -1.200208987e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_10 1 2 3 4 REF
C_C1 1 REF 0.2286920084288pf
C_C2 1 2 18.346429826398pf
C_C3 1 4 0.2395622717848pf
C_C4 2 REF 0.4715820598484pf
C_C5 2 3 0.1054103007335pf
C_C6 3 REF 0.3358013590071pf
C_C7 3 4 0.1819042484715pf
C_C8 4 REF 0.3300024996171pf
L_L1 3 5 1.3200413226776nh
R_RL1 5 4 -1.349875629e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_11 1 2 3 4 REF
C_C1 1 REF 0.2297623115991pf
C_C2 1 2 19.835792069537pf
C_C3 1 4 0.256408753167pf
C_C4 2 REF 0.4944652026153pf
C_C5 2 3 0.1105628584341pf
C_C6 3 REF 0.3356070440225pf
C_C7 3 4 0.0816638109353pf
C_C8 4 REF 0.3300637347162pf
L_L1 1 5 80.622099859819nh
R_RL1 5 2 16.210399711645
L_L2 3 6 1.3205519899785nh
R_RL2 6 4 -1.420059311e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_12 1 2 3 4 REF
C_C1 1 REF 0.2278809204266pf
C_C2 1 2 21.841408304207pf
C_C3 1 4 0.278662157924pf
C_C4 2 REF 0.5210665290231pf
C_C5 2 3 0.1175495210236pf
C_C6 3 REF 0.3353109647671pf
C_C7 3 4 0.0108662799589pf
C_C8 4 REF 0.3301081619278pf
L_L1 1 5 49.496573531723nh
R_RL1 5 2 10.715280310914
L_L2 3 6 1.320965983866nh
R_RL2 6 4 -1.395169465e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_13 1 2 3 4 REF
C_C1 1 REF 0.2198538432361pf
C_C2 1 2 24.634339870174pf
C_C3 1 4 0.3091859987274pf
C_C4 2 REF 0.5517105728562pf
C_C5 2 3 0.1273320931987pf
C_C6 3 REF 0.3349489671315pf
C_C7 4 REF 0.3301571858242pf
R_R1 1 2 -870.5313289882
L_L1 1 5 30.070776262505nh
R_RL1 5 2 6.6897188442263
L_L2 3 6 1.3208897830185nh
R_RL2 6 4 -1.249939578e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_14 1 2 3 4 REF
C_C1 1 REF 0.2022965284686pf
C_C2 1 2 28.60567101744pf
C_C3 1 4 0.3521340907389pf
C_C4 2 REF 0.5881471722036pf
C_C5 2 3 0.1413059243839pf
C_C6 3 REF 0.3345469064302pf
C_C7 4 REF 0.3302485970218pf
R_R1 1 2 -528.7795812965
L_L1 1 5 17.88485183529nh
R_RL1 5 2 4.1953340647779
L_L2 3 6 1.3205887867769nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_15 1 2 3 4 REF
C_C1 1 REF 0.1693092011025pf
C_C2 1 2 34.598778284063pf
C_C3 1 4 0.41649352996pf
C_C4 2 REF 0.6356342220242pf
C_C5 2 3 0.1624768813564pf
C_C6 3 REF 0.3341029248015pf
C_C7 4 REF 0.3304495342065pf
R_R1 1 2 -355.3190716699
L_L1 1 5 10.415857001012nh
R_RL1 5 2 3.3491225464968
L_L2 3 6 1.3200641322437nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_16 1 2 3 4 REF
C_C1 1 REF 0.1052546598295pf
C_C2 1 2 45.019617305725pf
C_C3 1 4 0.5279588295383pf
C_C4 2 REF 0.7105113046718pf
C_C5 2 3 0.1993978914431pf
C_C6 3 REF 0.3335489887935pf
C_C7 4 REF 0.3309208422243pf
R_R1 1 2 -249.1622788523
L_L1 1 5 6.1342678825872nh
R_RL1 5 2 1.3048767171204
L_L2 3 6 1.3191322423493nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_17 1 2 3 4 REF
C_C1 1 2 65.854998787575pf
C_C2 1 4 0.7504562077761pf
C_C3 2 REF 0.8525885780042pf
C_C4 2 3 0.2733486447218pf
C_C5 3 REF 0.3327419543297pf
C_C6 4 REF 0.3320853975907pf
R_R1 1 2 -185.1057845932
L_L1 1 5 2.6949073612112nh
R_RL1 5 2 0.2444227251872
L_L2 3 6 1.3172998041492nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_18 1 2 3 4 REF
C_C1 1 2 119.73632650762pf
C_C2 1 4 1.3257954306419pf
C_C3 2 REF 1.2128405810012pf
C_C4 2 3 0.4647091618901pf
C_C5 3 REF 0.331131943192pf
C_C6 4 REF 0.3355410938403pf
R_R1 1 2 -191.7247241059
L_L1 1 5 0.9849108184791nh
R_RL1 5 2 0.0360696073434
L_L2 1 6 45.856607848245nh
R_RL2 6 3 0.0231184007259
L_L3 1 7 45.135889673001nh
R_RL3 7 4 0.0233803325786
L_L4 2 8 45.956860974083nh
R_RL4 8 3 0.0018512230281
L_L5 2 9 45.239466623044nh
R_RL5 9 4 0.0017707111442
L_L6 3 10 1.3126775132244nh
R_RL6 10 4 1.153747966e-5
Kn_K1 L_L1 L_L2 0.0658181765035
Kn_K2 L_L1 L_L3 0.0660923214658
Kn_K3 L_L1 L_L4 -0.080647651923
Kn_K4 L_L1 L_L5 -0.081533552545
Kn_K5 L_L2 L_L3 0.9856047001586
Kn_K6 L_L2 L_L4 0.9892732876349
Kn_K7 L_L2 L_L5 0.9747642864811
Kn_K8 L_L2 L_L6 -0.131042423737
Kn_K9 L_L3 L_L4 0.9748535645851
Kn_K10 L_L3 L_L5 0.9891026475343
Kn_K11 L_L3 L_L6 0.0384522585405
Kn_K12 L_L4 L_L5 0.9856365234355
Kn_K13 L_L4 L_L6 -0.130685443222
Kn_K14 L_L5 L_L6 0.0386238749289
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_19 1 2 3 4 REF
C_C1 1 2 381.11435936112pf
C_C2 1 4 4.118368622246pf
C_C3 2 REF 2.9528201279232pf
C_C4 2 3 1.3929397780399pf
C_C5 3 REF 0.324569482227pf
C_C6 4 REF 0.3536742159131pf
R_R1 1 2 24.659453650751
L_L1 1 5 27.226459925569nh
R_RL1 5 REF -0.436225231511
L_L2 1 6 0.2102436861916nh
R_RL2 6 2 -0.026942250299
L_L3 1 7 11.753894265397nh
R_RL3 7 3 -0.014447349388
L_L4 1 8 11.084093933625nh
R_RL4 8 4 -0.015353849223
L_L5 2 9 27.076075427688nh
R_RL5 9 REF -0.458874417933
L_L6 2 10 11.798253643356nh
R_RL6 10 3 -1.889110926e-3
L_L7 2 11 11.132899201639nh
R_RL7 11 4 -1.588452401e-3
L_L8 3 12 38.736511665106nh
R_RL8 12 REF -0.436126894861
L_L9 3 13 1.290471489536nh
R_RL9 13 4 1.0e-5
L_L10 4 14 38.058294514802nh
R_RL10 14 REF -0.437109747335
Kn_K1 L_L1 L_L2 0.075365502618
Kn_K2 L_L1 L_L5 0.9961321096013
Kn_K3 L_L1 L_L8 0.8346149833149
Kn_K4 L_L1 L_L10 0.841888028093
Kn_K5 L_L2 L_L3 0.0527622052897
Kn_K6 L_L2 L_L4 0.0528768186607
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.080828270264
Kn_K9 L_L2 L_L7 -0.084661552468
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9439005559634
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9910750269831
Kn_K15 L_L3 L_L7 0.9345786054015
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.251664063407
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9350658444547
Kn_K21 L_L4 L_L7 0.9905391973871
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.082055418142
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8339229260112
Kn_K26 L_L5 L_L10 0.8411202204261
Kn_K27 L_L6 L_L7 0.9441215962058
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.2506208121
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0824618363097
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1392235098461
Kn_K35 L_L8 L_L10 0.9832341944324
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_20 1 2 3 4 REF
C_C1 1 REF 12.740916850058pf
C_C2 1 3 6.6436908814749pf
C_C3 2 4 19.846302535066pf
C_C4 3 REF 0.3768788452964pf
C_C5 4 REF 0.1943066182919pf
R_R1 1 REF -217.4249445026
R_R2 1 2 1.4603109797126
R_R3 1 3 -417.4677206553
R_R4 1 4 136.59470504867
R_R5 2 REF 215.81596058559
R_R6 2 3 417.55405356885
R_R7 2 4 -136.6678705018
L_L1 1 5 4.0713755363995nh
R_RL1 5 REF -0.010263681817
L_L2 1 6 0.159896140058nh
R_RL2 6 2 -0.386737186102
L_L3 1 7 2.5515600415912nh
R_RL3 7 3 -0.171109116812
L_L4 1 8 1.9901561666426nh
R_RL4 8 4 -0.238912139793
L_L5 2 9 4.1907108094883nh
R_RL5 9 REF -0.432000141431
L_L6 2 10 2.5160134492895nh
R_RL6 10 3 -0.043348361475
L_L7 2 11 1.9283089061711nh
R_RL7 11 4 -0.01771251142
L_L8 3 12 6.6138906279004nh
R_RL8 12 REF -0.204344630738
L_L9 3 13 1.1623074912635nh
R_RL9 13 4 -5.631966732e-3
L_L10 4 14 6.0598832213884nh
R_RL10 14 REF -0.276432362989
Kn_K1 L_L1 L_L2 0.02513550773
Kn_K2 L_L1 L_L5 0.9807493098865
Kn_K3 L_L1 L_L8 0.7837172311857
Kn_K4 L_L1 L_L10 0.8195029533154
Kn_K5 L_L2 L_L3 0.1529916201856
Kn_K6 L_L2 L_L4 0.1965432528217
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.098025427592
Kn_K9 L_L2 L_L7 -0.088288745543
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0305040341064
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7498324822373
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9684710249425
Kn_K16 L_L3 L_L7 0.7177070693259
Kn_K17 L_L3 L_L8 0.9899815040881
Kn_K18 L_L3 L_L9 -0.500462032215
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7055633990145
Kn_K22 L_L4 L_L7 0.9593136899654
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1975471303036
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0142946990281
Kn_K27 L_L5 L_L7 0.0104014390787
Kn_K28 L_L5 L_L8 0.7871875303015
Kn_K29 L_L5 L_L10 0.8257272583564
Kn_K30 L_L6 L_L7 0.7450162838986
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.511674815883
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.191906211637
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3095123293262
Kn_K38 L_L8 L_L10 0.9091593741616
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_21 1 2 3 4 REF
C_C1 1 2 853.30910854331pf
C_C2 1 4 9.1635683789425pf
C_C3 2 REF 6.0962604313729pf
C_C4 2 3 3.071039181773pf
C_C5 3 REF 0.3123645929256pf
C_C6 4 REF 0.3860124529657pf
R_R1 1 REF 269.41854798635
R_R2 1 2 -1.813497272521
R_R3 1 3 515.01694783332
R_R4 1 4 -169.6465930708
R_R5 2 REF -271.2216526025
R_R6 2 3 -515.3700419468
R_R7 2 4 169.71008218094
L_L1 1 5 7.6004851647572nh
R_RL1 5 REF -0.0174178449
L_L2 1 6 0.0438162094691nh
R_RL2 6 2 0.0268465351042
L_L3 1 7 4.0315461851504nh
R_RL3 7 3 0.0133892169474
L_L4 1 8 3.4013762311512nh
R_RL4 8 4 0.0160872846878
L_L5 2 9 7.5437857146696nh
R_RL5 9 REF 0.010173237073
L_L6 2 10 4.0514050246138nh
R_RL6 10 3 0.0023150571757
L_L7 2 11 3.4281896990871nh
R_RL7 11 4 0.0013635025667
L_L8 3 12 11.565803558717nh
R_RL8 12 REF -2.72838099e-3
L_L9 3 13 1.2274848504773nh
R_RL9 13 4 1.3222126003e-4
L_L10 4 14 10.928402214142nh
R_RL10 14 REF -1.980720903e-5
Kn_K1 L_L1 L_L2 0.0870894747312
Kn_K2 L_L1 L_L5 0.9971137352379
Kn_K3 L_L1 L_L8 0.8071169690027
Kn_K4 L_L1 L_L10 0.8299243229808
Kn_K5 L_L2 L_L3 0.0285007259955
Kn_K6 L_L2 L_L4 0.0220213641701
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.075564716698
Kn_K9 L_L2 L_L7 -0.091118676317
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.01499403313
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8378750509494
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9945821835274
Kn_K16 L_L3 L_L7 0.8313697991477
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.417533310942
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8335288923827
Kn_K22 L_L4 L_L7 0.9935919923745
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1461631666307
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8060463830106
Kn_K27 L_L5 L_L10 0.8284384947768
Kn_K28 L_L6 L_L7 0.8388056593361
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.414949426811
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1472855711474
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2474721675169
Kn_K36 L_L8 L_L10 0.945810857374
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_22 1 2 3 4 REF
C_C1 1 2 92.00011953649pf
C_C2 1 4 1.0232003942534pf
C_C3 2 REF 1.0313069984296pf
C_C4 2 3 0.3672254911797pf
C_C5 3 REF 0.3296205874517pf
C_C6 4 REF 0.3309617841642pf
R_R1 1 2 -37.03435597596
L_L1 1 5 0.2938095438584nh
R_RL1 5 2 0.0721835924561
L_L2 1 6 29.255510482655nh
R_RL2 6 3 0.0450632368488
L_L3 1 7 28.515879195784nh
R_RL3 7 4 0.0459241808292
L_L4 2 8 29.494659088553nh
R_RL4 8 3 0.0024272215266
L_L5 2 9 28.763598444799nh
R_RL5 9 4 0.0022262357278
L_L6 3 10 1.3054077328191nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.090522902816
Kn_K2 L_L1 L_L5 -0.093140164181
Kn_K3 L_L2 L_L3 0.9774840192142
Kn_K4 L_L2 L_L4 0.9950072444953
Kn_K5 L_L2 L_L5 0.9723235964519
Kn_K6 L_L2 L_L6 -0.165460629543
Kn_K7 L_L3 L_L4 0.9727185064935
Kn_K8 L_L3 L_L5 0.9948799005412
Kn_K9 L_L3 L_L6 0.0463658679446
Kn_K10 L_L4 L_L5 0.977669722069
Kn_K11 L_L4 L_L6 -0.164097851121
Kn_K12 L_L5 L_L6 0.0468651195872
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_23 1 2 3 4 REF
C_C1 1 REF 0.2316142059373pf
C_C2 1 2 30.425105863813pf
C_C3 1 4 0.3643706530057pf
C_C4 2 REF 0.6267925668634pf
C_C5 2 3 0.147899770697pf
C_C6 3 REF 0.3301276445148pf
C_C7 4 REF 0.3255078361893pf
R_R1 1 2 -135.4677014241
L_L1 1 5 0.6829180994534nh
R_RL1 5 2 0.1661714786967
L_L2 1 6 99.059500131888nh
R_RL2 6 4 0.2089927856662
L_L3 3 7 1.3123684193307nh
R_RL3 7 4 -1.350332263e-5
Kn_K1 L_L1 L_L2 -0.031213739846
Kn_K2 L_L2 L_L3 0.0136862853367
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_24 1 2 3 4 REF
C_C1 1 REF 0.3460406988138pf
C_C2 1 2 13.98714929632pf
C_C3 1 3 0.0307428108177pf
C_C4 1 4 0.1893044200715pf
C_C5 2 REF 0.5257561323122pf
C_C6 2 3 0.0879926811855pf
C_C7 3 REF 0.3293558223612pf
C_C8 4 REF 0.3230530123651pf
R_R1 1 2 -521.7056263128
L_L1 1 5 1.0548147232418nh
R_RL1 5 2 0.1120019120909
L_L2 3 6 1.3122132109316nh
R_RL2 6 4 -1.585500172e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_25 1 2 3 4 REF
C_C1 1 REF 0.39322819927pf
C_C2 1 2 7.8160749614855pf
C_C3 1 3 0.0578018046353pf
C_C4 1 4 0.1236330756757pf
C_C5 2 REF 0.4943632163831pf
C_C6 2 3 0.0639402955184pf
C_C7 3 REF 0.3280620426201pf
C_C8 4 REF 0.3210133916936pf
L_L1 1 5 1.6377017486667nh
R_RL1 5 2 4.1042283943e-4
L_L2 3 6 1.3100212923491nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_26 1 2 3 4 REF
C_C1 1 REF 0.411389899432pf
C_C2 1 2 5.9815667614996pf
C_C3 1 3 0.0683189312319pf
C_C4 1 4 0.102874804433pf
C_C5 2 REF 0.4882597301812pf
C_C6 2 3 0.055827148982pf
C_C7 2 4 0.0306028047559pf
C_C8 3 REF 0.3269377695604pf
C_C9 4 REF 0.3195801564789pf
L_L1 1 5 1.7923172965185nh
R_RL1 5 2 1.1584843639e-4
L_L2 3 6 1.3090522739673nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param45_26

